US09193668B2
An exemplary process to form a triazole product may include reacting calcium carbide, benzaldehyde, diethylamine, CuI and CH3CN for 18 hours at 80° C. (AAA-coupling), followed by addition of sodium azide, iodobenzene, CuI and N,N-dimethylethylenediamine in dimethyl formamide and stirred for 12 hours at 40° C. to obtain N-ethyl-N-(phenyl(1-phenyl-1H-1,2,3-triazol-4-yl)methyl)ethanamine after extraction and purification with 84% isolated yield.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
catalyst | CuI | [Cu]I
solvent | CH3CN | CC#N | C2H3N
product | N-ethyl-N-(phenyl(1-phenyl-1H-1,2,3-triazol-4-yl)methyl)ethanamine | C(C)N(CC)C(C=1N=NN(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C19H22N4
